US08058299B2
To a mixture of 4-carbamoyl-cyclohexanecarboxylic acid methyl ester (2.14 g, 11.6 mmol) in trimethyl phosphate (14 mL) cooled in an ice bath was dripped in diphosgene (2.24 g 11.6 mmol) and the reaction was allowed to warm to room temperature over 2 hr. The material was diluted with ethyl acetate (200 mL) and washed with an aqueous sodium bicarbonate (saturated, 200 mL) and brine (200 mL), dried over sodium sulfate, and concentrated as a clear oil. The oil was triturated with hexanes to give 4-cyano-cyclohexanecarboxylic acid methyl ester (687 mg 36%) as a clear oil. LCMS calcd for C9H13NO2 (m/e) 167, obsd 168 (M+H).

reactant | 4-carbamoyl-cyclohexanecarboxylic acid methyl ester | 11.6 mmol, 2.14 g | COC(=O)C1CCC(CC1)C(N)=O | C9H15NO3
reactant | diphosgene | 11.6 mmol, 2.24 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | trimethyl phosphate | 14 mL | P(=O)(OC)(OC)OC | C3H9O4P
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-cyano-cyclohexanecarboxylic acid methyl ester | 687 mg, 36% | COC(=O)C1CCC(CC1)C#N | C9H13NO2
